US07943619B2
6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid cyclopropylmethyl-amide
As described for example 73c, 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester (89 mg, 0.25 mmol) was converted, instead of 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid methyl ester, to the title compound (87 mg, 91%) which was obtained as an off white foam. MS: m/e=382.4 [M+H]+.

reactant | 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester | 0.25 mmol, 89 mg | C(C)OC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F | C18H17FN4O3
reactant | 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid methyl ester | COC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C17H16N4O3
product | 6-{[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid cyclopropylmethyl-amide | 87 mg, 91% | C1(CC1)CNC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F | C20H20FN5O2
